US04546075
6.9 g of 5-trifluoromethyl-1,2,3,4-tetrazole and 13.7 g of palmitoyl chloride were dissolved in 100 ml of acetonitrile while cooling with ice and to the solution was added dropwise 4.5 ml of pyridine over a period of about 10 minutes. After the completion of the dropwise addition, the mixture was stirred at about 5° C. for 30 minutes and then at room temperature for 1 hour, and to the mixture was added dropwise about 100 ml of ice water. The crystals thus-deposited were collected by filtration to obtain 8.2 g of 1-hexadecanoyl-5-trifluoromethyl-1,2,3,4 -tetrazole. A melting point was 66° to 69° C.

reactant | 5-trifluoromethyl-1,2,3,4-tetrazole | 6.9 g | FC(C1=NN=NN1)(F)F | C2HF3N4
reactant | palmitoyl chloride | 13.7 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-hexadecanoyl-5-trifluoromethyl-1,2,3,4 -tetrazole | 8.2 g | C(CCCCCCCCCCCCCCC)(=O)N1N=NN=C1C(F)(F)F | C18H31F3N4O
